US05321135
Synthesis of 1-(3,4-methylenedioxyphenyl)-4-(3,4,5-trimethoxyphenyl)butane
Dissolved in 20 ml of ethyl acetate were 500 mg (1.39 mmol) of 1-(3,4-methylenedioxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1-ol, followed by the addition of 5 mg of palladium chloride. The resulting mixture was stirred at room temperature for 15 hours under a hydrogen atmosphere of 1 atm. Insoluble matter was removed by filtration and the filtrate was then concentrated. The concentrate thus obtained was purified by column chromatography (silica gel: "MERCK #9385", 50 g, eluent: 1:5 mixed solvent of ethyl acetate and hexane), whereby 388 mg of the title compound were obtained as colorless oil (yield: 81%).

reactant | 1-(3,4-methylenedioxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1-ol | 1.39 mmol, 500 mg | C1OC=2C=C(C=CC2O1)C(CCCC1=CC(=C(C(=C1)OC)OC)OC)O | C20H24O6
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium chloride | 5 mg | [Pd](Cl)Cl
product | 1-(3,4-methylenedioxyphenyl)-4-(3,4,5-trimethoxyphenyl)butane | 388 mg | C1OC=2C=C(C=CC2O1)CCCCC1=CC(=C(C(=C1)OC)OC)OC | C20H24O5
